* E:\Git\Group Project\EEE3-Instrumentation\Simulations\Buffer\buffer.asc
XU1 N003 0 N003 opamp Aol=100K GBW=10Meg
V1 N003 0 SINE(0 1 1Meg)
V2 V+ 0 18
V3 0 V- 18
R3 N002 V+ 2k
R4 V- N005 2k
Q2 N001 N002 N004 0 2N4401
V4 NC_01 0 PULSE(-18 18 1f 5u 1 1 1)
Q1 N006 N005 N004 0 2N4403
R1 N001 V+ 100m
R2 V- N006 100m
D1 N002 N003 D
D2 N003 N005 D
.model D D
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5u 0 1u
.model D D(Ron=1m Roff=10Meg Vfwd=0.75 Vrev=100)
.lib opamp.sub
.backanno
.end
